US04891375
4-(4-(2-(4-(3-Benzisothiazolyl)piperazinyl)ethyl)-thiazol- 2-one
To a 100 ml round-bottomed flask equipped with condenser and N2 inlet were added 1.0 g (4.57 mmol) 3-piperazinyl-benzisothiazole, 1.46 g (4.57 mmol) 4-(4-(2-chloroethyl)phenyl)thiazol-2-one hydrobromide, 970 mg (9.13 mmol) sodium carbonate, 600 mg (4.57 mmol) diisopropylethylamine, 2 mg sodium iodide, and 35 ml methylisobutylketone. The reaction was refluxed 24 hours, cooled, and evaporated. The residue was taken up in ethyl acetate, washed with water and brine, dried over sodium sulfate, and evaporated. The residue was chromatographed on silica gel using methylene chloride/ethyl acetate as eluent. The product fractions were dissolved in methylene chloride/ethyl acetate and precipitated with HCl gas. The precipitate was filtered to give a solid, m.p. 190° C., 455 mg (21.9%).

reactant | 3-piperazinyl-benzisothiazole | 4.57 mmol, 1.0 g | N1(CCNCC1)C1=NSC2=C1C=CC=C2 | C11H13N3S
reactant | 4-(4-(2-chloroethyl)phenyl)thiazol-2-one hydrobromide | 4.57 mmol, 1.46 g | Br.ClCCC1=CC=C(C=C1)C=1NC(SC1)=O
reactant | sodium carbonate | 9.13 mmol, 970 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | diisopropylethylamine | 4.57 mmol, 600 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | sodium iodide | 2 mg | [I-].[Na+]
solvent | methylisobutylketone | 35 ml | CC(=O)CC(C)C | C6H12O
product | 4-(2-(4-(3-Benzisothiazolyl)piperazinyl)ethyl)-thiazol- 2-one | S1N=C(C2=C1C=CC=C2)N2CCN(CC2)CCC=2NC(SC2)=O | C16H18N4OS2
